* sg13g2-bandgap -- bandgap_core + bandgap_amp + bandgap_startup
* closed-loop AC power-supply-rejection (PSRR) testbench (issue #88,
* follow-on to #86/#58). Generated from
* sim/closed-loop-psrr/testbench/tb_closed_loop_psrr.spice.tmpl
* by sim/closed-loop-psrr/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full methodology rationale is in
* sim/closed-loop-psrr/README.md.
*
* Generated for: corner=wcs temp=-40C vdd=3.63V
* DUT git sha (design/netlist/bandgap_core.spice,
* design/netlist/bandgap_amp.spice and design/netlist/bandgap_startup.spice
* this was copied from):
*   core=4832c71 amp=397fe2d startup=66ac99d seeds=20260825-145208-403a24f.csv@397fe2d
* PDK: ihp-sg13g2 /tmp/pdk-root/ihp-open-pdk (see sim/pdk.json for the pinned release)
* OSDI models: /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* ------------------------------------------------------- injection method
* Unlike sim/loop-gain-phase-margin/, this testbench does NOT break the
* "fb" node -- the loop stays fully closed, exactly as
* sim/closed-loop-startup/ and sim/closed-loop-vref-pvt/ wire it (single
* shared fb node). PSRR is a closed-loop property by definition (how well
* the ALREADY-CLOSED loop rejects a supply perturbation at its output), so
* there is no loop-break analogous to the Middlebrook probe
* loop-gain-phase-margin needs to measure gain/phase around the loop.
* Instead, a small-signal AC perturbation is injected directly in series
* with Vvdd (Vvdd's own "ac 1 0" term below) -- the supply IS the
* stimulus -- while Vvss (the analog ground reference every node in this
* circuit, including vref, is ultimately measured against) stays fixed at
* its own separate DC source, unperturbed. This mirrors the textbook PSRR
* setup: perturb the rail being characterized, hold the reference rail
* still, read the resulting ripple at the node under test (vref).
*
* PSRR (this testbench's own sign/units convention, derived not assumed,
* see README "Sign convention"): with Vvdd's AC magnitude = 1 V (0 dB),
* PSRR(f) = 20*log10(|v(vdd,ac)| / |v(vref,ac)|) = -dB(v(vref)) directly
* (ngspice's db() is already 20*log10(|.|), and the 1 V AC stimulus is
* itself 0 dB) -- a LARGER PSRR_dB means BETTER rejection (less of the
* injected supply ripple reaches vref), the conventional PSRR sense.
*
* ------------------------------------------------------- DC bias: nodeset
* Same numerical situation sim/loop-gain-phase-margin/ documents in full:
* this circuit has (at least) two DC equilibria, and a bare `.op` with no
* transient bring-up and no bias hint has no guaranteed way to land in the
* intended closed-loop basin. Unlike that experiment, this testbench does
* NOT need to invent its own bring-up workaround -- the loop here is NOT
* broken (single "fb" node, exactly sim/closed-loop-startup/'s own
* topology), so nothing here disrupts fb's own fast dynamics the way
* splitting fb into fb_src/fb_load did there. The same fix is used anyway,
* for the same reason: seed a `.nodeset` at fb/sns1/sns2/vref from
* sim/closed-loop-startup's own most recent committed per-corner converged
* transient endpoint (read from that experiment's own record CSV by
* run_pvt_sweep.sh -- see README "Nodeset provenance"), which is (very
* nearly) the true closed-loop answer for this exact corner, so `.op`'s
* Newton-Raphson converges directly to it rather than searching from a
* default guess that might land in the degenerate all-off equilibrium
* design/bandgap_startup.sch exists to avoid.
.nodeset v(fb)=2.74687e+00 v(sns1)=7.89267e-01 v(sns2)=7.89197e-01 v(vref)=1.14243e+00

.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss
.lib "/tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_wcs

.options temp=-40 tnom=27

* FIXTURE -- vdd carries BOTH the fixed DC operating point (matching the
* .nodeset seed above) AND the 1V/0deg small-signal AC stimulus this
* testbench measures rejection of. Vvss is a separate, unperturbed 0V
* source -- the ground reference vref is measured against -- so the AC
* stimulus genuinely represents supply ripple relative to a quiet ground,
* not a common shift of the whole circuit's reference.
Vvdd vdd 0 dc 3.63 ac 1 0
Vvss vss 0 dc 0
Vsub sub! vss dc 0

* DUT -- design/netlist/bandgap_core.spice, verbatim (loop NOT broken).
XM1 sns1 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XM2 sns2 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XM3 vref fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR1 vref cb3 sub! rppd w=2u l=694.5u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* DUT -- design/netlist/bandgap_amp.spice, verbatim. in_p <- sns2
* (non-inverting), in_n <- sns1 (inverting), out -> fb -- same polarity
* design/bandgap_amp.sch's own header derives and
* sim/closed-loop-vref-pvt/ and sim/closed-loop-startup/ both use.
XMTAIL tail fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP1 d1 sns2 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP2 d2 sns1 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP4 fb pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN3 fb d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1

* DUT -- design/netlist/bandgap_startup.spice, verbatim. `sns1` and `fb`
* are shared with the core and amp DUTs above -- the nodes the assembled
* block actually connects. No separate stimulus source drives either one.
*
* FIXTURE -- Vmkfb is a 0V ammeter in series with XMKFB's drain (same
* fixture every closed-loop experiment in this tree uses), so the startup
* circuit's own contribution to the shared fb node can be measured
* directly if needed. A 0V source is a DC/AC short and does not move the
* operating point or inject anything of its own.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
Vmkfb fb fbx dc 0
XMKFB fbx det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1

.control
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /tmp/pdk-root/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
op
* Sanity check (mirrors sim/loop-gain-phase-margin's "op landed near its
* seed" -- see README): if .op strayed into the wrong equilibrium, fb here
* will read far from 2.74687e+00. ngspice has no ".meas op" analysis type;
* "print" is this tree's standard way to pull a DC operating-point value
* out of a .control block, parsed by run_pvt_sweep.sh from this exact
* "v(node) = value" line shape.
print v(fb)
print v(sns1)
print v(sns2)
print v(vref)
ac dec 30 1 1e9
let psrr_db = -db(v(vref))
let vref_phase_deg = cph(v(vref))*180/PI
wrdata /home/ubuntu/loom-workspaces/sg13g2-bandgap/.loom/worktrees/issue-88/sim/closed-loop-psrr/corners/20260826-114500-874c585/wcs_-40c_3.63v.ac.txt psrr_db vref_phase_deg
.endc
.end
